### PR TITLE
[Merged by Bors] - chore(CategoryTheory/Functor): pointwise Kan extensions under isomorphisms

### PR DESCRIPTION
**Pull request by chrisflav**
We already have the versions for `HasPointwiseLeftKanExtensionAt` in the `L` argument, this PR adds the version for isomorphisms in both functor arguments. We also add the variants for `HasPointwiseLeftKanExtension`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean [hunk 1]
```diff
@@ -162,6 +162,46 @@ lemma hasPointwiseRightKanExtensionAt_iff_of_equivalence
         isoWhiskerLeft L E.unitIso.symm ≪≫ L.rightUnitor) Y' Y
       (E.inverse.mapIso e.symm ≪≫ E.unitIso.symm.app Y)
 
+set_option backward.isDefEq.respectTransparency false in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean [hunk 2]
```diff
@@ -162,6 +162,46 @@ lemma hasPointwiseRightKanExtensionAt_iff_of_equivalence
...
+lemma HasPointwiseLeftKanExtensionAt.of_natIso {L L' : C ⥤ D} {F F' : C ⥤ H} (Y : D)
+    [L.HasPointwiseLeftKanExtensionAt F Y] (e₁ : L ≅ L') (e₂ : F ≅ F') :
+    L'.HasPointwiseLeftKanExtensionAt F' Y := by
+  rw [hasPointwiseLeftKanExtensionAt_iff_of_natIso _ e₁.symm]
+  let e : CostructuredArrow.proj L Y ⋙ F' ≅ CostructuredArrow.proj L Y ⋙ F :=
+    NatIso.ofComponents fun X ↦ (e₂.app _).symm
+  rw [HasPointwiseLeftKanExtensionAt, hasColimit_iff_of_iso e]
+  infer_instance
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean]:
```suggestion
```

**Review by robin-carlier — COMMENTED** [review]
Is there much point in keeping the old version around that only has this in one argument?

i.e., we could inline its proof in your version (or keep it but as private) and ask people to use the version with two nat isos with a `.refl` argument if they need only one.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean [hunk 3]
```diff
@@ -162,6 +160,58 @@ lemma hasPointwiseRightKanExtensionAt_iff_of_equivalence
...
+    L'.HasPointwiseLeftKanExtensionAt F' Y := by
+  rw [hasPointwiseLeftKanExtensionAt_iff_of_natIso _ e₁.symm]
+  let e : CostructuredArrow.proj L Y ⋙ F' ≅ CostructuredArrow.proj L Y ⋙ F :=
+    NatIso.ofComponents fun X ↦ (e₂.app _).symm
+  rw [HasPointwiseLeftKanExtensionAt, hasColimit_iff_of_iso e]
+  infer_instance
+
+/-- `HasPointwiseLeftKanExtensionAt` is invariant when we replace `L` and `F` by isomorphic
+functors. -/
+lemma hasPointwiseLeftKanExtension_iff_of_natIso {L L' : C ⥤ D} {F F' : C ⥤ H} {Y : D}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean]:
```suggestion
lemma hasPointwiseLeftKanExtensionAt_iff_of_natIso {L L' : C ⥤ D} {F F' : C ⥤ H} {Y : D}
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean [hunk 4]
```diff
@@ -162,6 +160,58 @@ lemma hasPointwiseRightKanExtensionAt_iff_of_equivalence
...
+    L'.HasPointwiseRightKanExtensionAt F' Y := by
+  rw [hasPointwiseRightKanExtensionAt_iff_of_natIso _ e₁.symm]
+  let e : StructuredArrow.proj Y L ⋙ F' ≅ StructuredArrow.proj Y L ⋙ F :=
+    NatIso.ofComponents fun X ↦ (e₂.app _).symm
+  rw [HasPointwiseRightKanExtensionAt, hasLimit_iff_of_iso e]
+  infer_instance
+
+/-- `HasPointwiseRightKanExtensionAt` is invariant when we replace `L` and `F` by isomorphic
+functors. -/
+lemma hasPointwiseRightKanExtension_iff_of_natIso {L L' : C ⥤ D} {F F' : C ⥤ H} {Y : D}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Pointwise.lean]:
```suggestion
lemma hasPointwiseRightKanExtensionAt_iff_of_natIso {L L' : C ⥤ D} {F F' : C ⥤ H} {Y : D}
```

**Comment by joelriou** [comment]
Thanks!

bors merge
